US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-benzyloxyaniline were reacted to yield N2,N4-bis(3-benzyloxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.98 (bs, 1H), 7.42–6.99 (m, 16H), 6.75 (d, 1H, J=2.4 Hz), 6.71 (m, 1H), 6.60 (dd, 1H, J=2.4 and 8.4 Hz), 6.32 (m, 1H), 4.97 (s, 2H), 4.94 (s, 2H); LCMS: ret. time: 32.56 min.; purity: 98%; MS (m/e): 493 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-benzyloxyaniline | C(C1=CC=CC=C1)OC=1C=C(N)C=CC1 | C13H13NO
product | N2,N4-bis(3-benzyloxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)OCC1=CC=CC=C1)F | C30H25FN4O2
